### PR TITLE
[Merged by Bors] - feat: shifted geometric series and a `ProbabilityMeasure` version of `measure_iUnion_le`

### PR DESCRIPTION
**Pull request by FormulaRabbit81**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 1]
```diff
@@ -396,6 +396,13 @@ theorem ENNReal.tsum_geometric (r : ℝ≥0∞) : ∑' n : ℕ, r ^ n = (1 - r)
 theorem ENNReal.tsum_geometric_add_one (r : ℝ≥0∞) : ∑' n : ℕ, r ^ (n + 1) = r * (1 - r)⁻¹ := by
   simp only [_root_.pow_succ', ENNReal.tsum_mul_left, ENNReal.tsum_geometric]
 
+lemma mul_shifted_geom_series (ε : ENNReal) : (∑' (m : ℕ), ε * 2 ^ (-(m+1) : ℤ)) = ε := by
+  rw [ENNReal.tsum_mul_left]
+  nth_rw 2 [←mul_one (a := ε)]; congr; simp_rw [← Nat.cast_one (R := ℤ), ← Nat.cast_add,
```
Comment (Whysoserioushah) [inline Mathlib/Analysis/SpecificLimits/Basic.lean]: change lines here?

Comment (FormulaRabbit81) [reply Mathlib/Analysis/SpecificLimits/Basic.lean]: Done ;)

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 2]
```diff
@@ -396,6 +396,16 @@ theorem ENNReal.tsum_geometric (r : ℝ≥0∞) : ∑' n : ℕ, r ^ n = (1 - r)
...
 
+lemma mul_shifted_geom_series (ε : ENNReal) : (∑' (m : ℕ), ε * 2 ^ (-(m + 1) : ℤ)) = ε := by
+  rw [ENNReal.tsum_mul_left]
+  nth_rw 2 [←mul_one (a := ε)]
+  congr
+  simp_rw [← Nat.cast_one (R := ℤ), ← Nat.cast_add,
+  ENNReal.zpow_neg (x := 2) (by norm_num) (by norm_num), zpow_natCast, ENNReal.inv_pow,
+  tsum_geometric_add_one]
+  norm_num
+  rw [ENNReal.inv_mul_cancel]; all_goals norm_num
```
Comment (kckennylau) [inline Mathlib/Analysis/SpecificLimits/Basic.lean]:
```suggestion
lemma mul_shifted_geom_series (ε : ENNReal) : (∑' (m : ℕ), ε * 2 ^ (-(m + 1) : ℤ)) = ε := by
  simp_rw [ENNReal.tsum_mul_left, ENNReal.zpow_neg (x := 2) (by norm_num) (by norm_num),
    ← Nat.cast_add_one, zpow_natCast, ENNReal.inv_pow, ENNReal.tsum_geometric_add_one]
  norm_num [ENNReal.inv_mul_cancel]
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 3]
```diff
@@ -244,6 +244,12 @@ theorem measurable_prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β
   · exact (Measure.measurable_coe Hu).comp (measurable_subtype_coe.comp measurable_fst)
   · exact (Measure.measurable_coe Hv).comp (measurable_subtype_coe.comp measurable_snd)
 
+lemma prob_measure_iUnion_le {μ : ProbabilityMeasure Ω} (f : ℕ → Set Ω)
+    (hf : Summable fun n ↦ μ (f n)) :
+    μ (⋃ n, f n) ≤ ∑' n, μ (f n) := by
+  rw [← ENNReal.coe_le_coe, ENNReal.coe_tsum hf]
+  simpa using MeasureTheory.measure_iUnion_le f
```
Comment (kckennylau) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]:
```suggestion
lemma prob_measure_iUnion_le {μ : ProbabilityMeasure Ω} (f : ℕ → Set Ω)
    (hf : Summable fun n ↦ μ (f n)) :
    μ (⋃ n, f n) ≤ ∑' n, μ (f n) := by
  simpa [← ENNReal.coe_le_coe, ENNReal.coe_tsum hf] using MeasureTheory.measure_iUnion_le f
```

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 4]
```diff
@@ -396,6 +396,16 @@ theorem ENNReal.tsum_geometric (r : ℝ≥0∞) : ∑' n : ℕ, r ^ n = (1 - r)
 theorem ENNReal.tsum_geometric_add_one (r : ℝ≥0∞) : ∑' n : ℕ, r ^ (n + 1) = r * (1 - r)⁻¹ := by
   simp only [_root_.pow_succ', ENNReal.tsum_mul_left, ENNReal.tsum_geometric]
 
+lemma mul_shifted_geom_series (ε : ENNReal) : (∑' (m : ℕ), ε * 2 ^ (-(m + 1) : ℤ)) = ε := by
```
Comment (kckennylau) [inline Mathlib/Analysis/SpecificLimits/Basic.lean]:
```suggestion
lemma ENNReal.tsum_mul_two_pow_neg_add_one (ε : ENNReal) :
    ∑' (m : ℕ), ε * 2 ^ (-(m + 1) : ℤ) = ε := by
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 5]
```diff
@@ -244,6 +244,11 @@ theorem measurable_prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β
   · exact (Measure.measurable_coe Hu).comp (measurable_subtype_coe.comp measurable_fst)
   · exact (Measure.measurable_coe Hv).comp (measurable_subtype_coe.comp measurable_snd)
 
+lemma prob_measure_iUnion_le {μ : ProbabilityMeasure Ω} (f : ℕ → Set Ω)
```
Comment (kckennylau) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]:
```suggestion
lemma apply_iUnion_le {μ : ProbabilityMeasure Ω} (f : ℕ → Set Ω)
```

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 6]
```diff
@@ -396,6 +396,12 @@ theorem ENNReal.tsum_geometric (r : ℝ≥0∞) : ∑' n : ℕ, r ^ n = (1 - r)
 theorem ENNReal.tsum_geometric_add_one (r : ℝ≥0∞) : ∑' n : ℕ, r ^ (n + 1) = r * (1 - r)⁻¹ := by
   simp only [_root_.pow_succ', ENNReal.tsum_mul_left, ENNReal.tsum_geometric]
 
+lemma ENNReal.tsum_mul_two_pow_neg_add_one (ε : ENNReal) :
+    (∑' (m : ℕ), ε * 2 ^ (-(m + 1) : ℤ)) = ε := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Basic.lean]: I would say the lemma we want is
```suggestion
lemma ENNReal.tsum_two_zpow_neg_add_one (ε : ℝ≥0∞) :
    ∑' m : ℕ, 2 ^ (-(m + 1) : ℤ) = 1 := by
```
Your version can be obtained by simping from this

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 7]
```diff
@@ -244,6 +244,11 @@ theorem measurable_prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β
   · exact (Measure.measurable_coe Hu).comp (measurable_subtype_coe.comp measurable_fst)
   · exact (Measure.measurable_coe Hv).comp (measurable_subtype_coe.comp measurable_snd)
 
+lemma apply_iUnion_le {μ : ProbabilityMeasure Ω} (f : ℕ → Set Ω)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]:
```suggestion
lemma prob_iUnion_le {μ : ProbabilityMeasure Ω} (f : ℕ → Set Ω)
```
is how we'd call it

File: Mathlib/Analysis/SpecificLimits/Basic.lean (hunk 6 above)
Comment (FormulaRabbit81) [reply Mathlib/Analysis/SpecificLimits/Basic.lean]: Sorted (I think)

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 8]
```diff
@@ -244,6 +244,11 @@ theorem measurable_prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β
   · exact (Measure.measurable_coe Hu).comp (measurable_subtype_coe.comp measurable_fst)
   · exact (Measure.measurable_coe Hv).comp (measurable_subtype_coe.comp measurable_snd)
 
+lemma prob_iUnion_le {μ : ProbabilityMeasure Ω} (f : ℕ → Set Ω)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]: `f` can be inferred from `hf`, therefore no need for it to be explicit
```suggestion
lemma prob_iUnion_le {μ : ProbabilityMeasure Ω} {f : ℕ → Set Ω}
```

File: Mathlib/Analysis/SpecificLimits/Basic.lean [hunk 9]
```diff
@@ -396,6 +396,13 @@ theorem ENNReal.tsum_geometric (r : ℝ≥0∞) : ∑' n : ℕ, r ^ n = (1 - r)
 theorem ENNReal.tsum_geometric_add_one (r : ℝ≥0∞) : ∑' n : ℕ, r ^ (n + 1) = r * (1 - r)⁻¹ := by
   simp only [_root_.pow_succ', ENNReal.tsum_mul_left, ENNReal.tsum_geometric]
 
+lemma ENNReal.tsum_two_zpow_neg_add_one :
+    ∑' m : ℕ, 2 ^ (-1 - m  : ℤ) = (1 : ENNReal) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecificLimits/Basic.lean]: I still think the following is more natural:
```suggestion
    ∑' m : ℕ, 2 ^ (-m - 1 : ℤ) = (1 : ENNReal) := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 10]
```diff
@@ -244,6 +244,11 @@ theorem measurable_prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β
   · exact (Measure.measurable_coe Hu).comp (measurable_subtype_coe.comp measurable_fst)
   · exact (Measure.measurable_coe Hv).comp (measurable_subtype_coe.comp measurable_snd)
 
+lemma prob_iUnion_le {μ : ProbabilityMeasure Ω} {f : ℕ → Set Ω}
```
Comment (hrmacbeth) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]: I think possibly the naming convention is `apply_iUnion_le`, although someone familiar with this part of the library would be able to confirm.

Could you please also add the corresponding lemma for FiniteMeasure?

**Comment by hrmacbeth** [comment]
bors d+

**Comment by mattrobball** [comment]
Please merge master and retry

bors r-

**Comment by mattrobball** [comment]
@FormulaRabbit81 please merge master

**Comment by FormulaRabbit81** [comment]
> @FormulaRabbit81 please merge master

Sorry I'm new - does this mean run git fetch; git merge upstream/master on my branch? I ran this and it said already up to date

**Comment by mattrobball** [comment]
No worries! Full response in a moment.

**Comment by mattrobball** [comment]
I **think** that should work. I usually do `git fetch upstream master`. Let me know how that goes.

**Comment by mattrobball** [comment]
The reason bors was called off was because CI was failing. Most likely due to a bad interaction with changes from master in the interim.

**Comment by FormulaRabbit81** [comment]
> I **think** that should work. I usually do `git fetch upstream master`. Let me know how that goes.

Thanks! This did something resulting in this:
 * branch                  master     -> FETCH_HEAD
   ab18fa8535..3fb2e06161  master     -> upstream/master

Is there anything else I need to do before merging? I pushed after that but it didn't do anything

**Comment by mattrobball** [comment]
Then `git merge upstream/master` and `git push`

**Comment by mattrobball** [comment]
That is reproducing the error I saw. I haven't looked but superficially at it. Let me know if more questions come up while you investigate.

**Comment by FormulaRabbit81** [comment]
> That is reproducing the error I saw. I haven't looked but superficially at it. Let me know if more questions come up while you investigate.

Thanks so much for your help - all sorted now!

**Comment by mattrobball** [comment]
Excellent. Fire away!
